US05314693
In a similar manner, 4-methoxystilbene is synthesized from 4-methoxybenzaldehyde and diethylbenzyl phosphonate, and demethylated to obtain 4-hydroxystilbene (sample No. 13) as white needle crystals (melting point: 185°-186° C.).

reactant | 4-methoxystilbene | COC1=CC=C(C=C1)C=CC1=CC=CC=C1 | C15H14O
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | diethylbenzyl phosphonate | P(OC(C1=CC=CC=C1)(CC)CC)([O-])=O
product | 4-hydroxystilbene | OC1=CC=C(C=C1)C=CC1=CC=CC=C1 | C14H12O
